US07754727B2
To a stirred mixture of the title A compound, 4-biphenyl-3-yl-3,6,dihydro-2H-pyridine-1-carboxylic acid t-butyl ester (2.57 g, 7.66 mmol) and 6 mL of dry THF is added dropwise under argon at 5° C. a 1M borane-tetrahydrofuran complex solution (11 mL, 11 mmol) within 15 min. The reaction mixture is stirred for 10 min. at 5° C. and for 1 h at RT. NaBO3 (3.38 g, 22 mmol) is then added in several portions followed by H2O (10 mL). After 2 h at RT, the reaction mixture is extracted twice with ethyl acetate. The combined organic extracts are dried (Na2SO4) and evaporated in vacuo. Flash chromatography of the residue (SiO2, hexane/ethyl acetate) affords (3R*,4R*)-4-biphenyl-3-yl-3-hydroxy-piperidine-1-carboxylic acid t-butyl ester as a white amorphous solid: MS (after treatment with trifluoroacetic acid) 254.3 [M+H−C5H8O2]+; Rf 0.10 (hexane/ethyl acetate 8:2).

reactant | 4-biphenyl-3-yl-3,6,dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 7.66 mmol, 2.57 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1C=C(C=CC1)C1=CC=CC=C1 | C22H25NO2
reactant | THF | 6 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
product | (3R*,4R*)-4-biphenyl-3-yl-3-hydroxy-piperidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C=1C=C(C=CC1)C1=CC=CC=C1)O | C22H27NO3
